US08808703B2
Step 5: (5S,8R,12R)-8-amino-12-(dodecanoyloxy)-5-ethyl-7,15-dioxo-3,14-dioxa-10-thia-6-azahexacosan-1-oic acid
A solution of (8S,11R,15R)-11-(((9H-fluoren-9-yl)methoxy)carbonylamino)-8-ethyl-2,2-dimethyl-4,10-dioxo-3,6-dioxa-13-thia-9-azahexadecane-15,16-diyl didodecanoate (1 eq, from the previous step) in 50% TFA in DCM (0.05 M) was stirred in open air at 40° C. for 1.5 hours. The mixture was dried under a stream of air and briefly evaporated under high vacuum. The resulting oil was dissolved in 20% piperidine in THF (0.1 mL) and stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate. The reaction mixture was concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-10% methanol in DCM to give the product as a solid. 1H NMR (DMSO-d6): δ 8.30 (d, 1H), 5.11 (m, 1H), 4.27 (dd, 1H), 4.09 (dd, 1H), 3.96 (s, 2H), 3.67-3.76 (m, 2H), 3.37-3.48 (m, 2H), 2.71-2.95 (m, 4H), 2.25-2.28 (m, 4H), 1.23-1.62 (m, 41H), 0.83-0.88 (m, 6H). LRMS [M+H]=689.4.

reactant | (8S,11R,15R)-11-(((9H-fluoren-9-yl)methoxy)carbonylamino)-8-ethyl-2,2-dimethyl-4,10-dioxo-3,6-dioxa-13-thia-9-azahexadecane-15,16-diyl didodecanoate | C(CCCCCCCCCCC)(=O)O[C@@H](CSC[C@@H](C(N[C@H](COCC(OC(C)(C)C)=O)CC)=O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)COC(CCCCCCCCCCC)=O | C55H86N2O10S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.05 M | C(Cl)Cl | CH2Cl2
product | (5S,8R,12R)-8-amino-12-(dodecanoyloxy)-5-ethyl-7,15-dioxo-3,14-dioxa-10-thia-6-azahexacosan-1-oic acid | N[C@H](C(N[C@H](COCC(=O)O)CC)=O)CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O | C36H68N2O8S
